US08357694B2
(S)-6-(3,4-dichlorophenyl)-N-(3-(2-(piperidin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride
This was synthesized by using (S)-4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, piperidine and triethylamine as described in general procedure 6 to afford the desired product as hydrochloride salt. M.p.=165-169° C. 1H NMR (DMSO) 400 MHz δ 10.32 (bs, 1H), 9.66 (s, 1H), 8.35-8.30 (m, 2H), 7.77 (s, 1H), 7.68 (d, J=8.0 Hz, 1H), 7.57-7.46 (m, 3H), 7.44-7.42 (m, 1H), 7.28 (t, J=8.0 Hz, 1H), 7.11 (d, J=7.6 Hz, 1H), 7.04-7.00 (m, 1H), 6.86 (d, J=7.2 Hz, 1H), 4.46 (t, J=6.0 Hz, 1H), 3.53-3.48 (m, 2H), 3.28-3.13 (m, 4H), 3.09-3.01 (m, 2H), 2.94-2.84 (m, 2H), 1.81-1.65 (m, 5H), 1.42-1.32 (m, 1H). LCMS m/e 529 [M+H]. Calc. for C31H30Cl2N4.2.08 Hydrochloric acid.0.04 Water.0.33 Ethyl Acetate: C, 61.12; H, 5.52; N, 8.82. Found C, 61.12; H, 5.52; N, 8.82.

reactant | (S)-4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC(=C(C=C1)Cl)Cl)C=CC=C3 | C27H23Cl2N3O3S
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-6-(3,4-dichlorophenyl)-N-(3-(2-(piperidin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)[C@@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC(=CC=C2)CCN2CCCCC2 | InChI=1S/C31H30Cl2N4.ClH/c32-28-12-11-22(19-29(28)33)27-18-23-20-34-31(36-30(23)26-10-3-2-9-25(26)27)35-24-8-6-7-21(17-24)13-16-37-14-4-1-5-15-37;/h2-3,6-12,17,19-20,27H,1,4-5,13-16,18H2,(H,34,35,36);1H/t27-;/m0./s1
